US05463098
A. Preparation of Zinc Glycinate
Thirty five (35.0) pounds of water were added to a 22 liter vessel and heated to 90° C. Glycine (4.337 lbs.) was then added with stirring, and the solution was heated to 95° C. Zinc oxide (1.766 lbs.) was then added with stirring and heating continued for two hours until the solution was clear (gly/Zn=2.7/1; PG/Zn=3.0/1). Propylene glycol (4.94 lbs.) was then added and heating continued for an additional one-half hour.

reactant | Glycine | 4.337 lbs | NCC(=O)O | C2H5NO2
reactant | Zinc oxide | 1.766 lbs | [O-2].[Zn+2]
reactant | Zn | [Zn] | Zn
reactant | Propylene glycol | 4.94 lbs | C(C(C)O)O | C3H8O2
solvent | water | O | H2O
product | Zinc Glycinate | NCC(=O)[O-].[Zn+2].NCC(=O)[O-] | InChI=1S/2C2H5NO2.Zn/c2*3-1-2(4)5;/h2*1,3H2,(H,4,5);/q;;+2/p-2
